US07595315B2
(2-Trifluoromethyl-benzyl)-phosphonic acid diethyl ester
To a suspension of sodium iodide (3.85 g, 25.6 mmol, 1 equiv.) in acetonitrile at room temperature under argon is added neat 1-chloromethyl-2-trifluoromethyl-benzene (commercially available from Acros Organics USA). To the resulting milky suspension is added freshly distilled triethyl phosphite (4.26 g, 25.6 mmol, 1 equiv.) and the resulting solution is stirred overnight at room temperature. After that time further triethyl phosphite (2.13 g, 12.9 mmol, 0.5 equiv.) is added and the reaction mixture heated at reflux for 1 hour. After cooling down to room temperature all volatiles were evaporated under reduced pressure. The residue is taken-up in dichloromethane and filtered through paper and the filtrate is concentrated under reduced pressure to yield the desired material as a clear oil pure enough to be used in the following step without further purification (7.46 g, 98%).

reactant | sodium iodide | 25.6 mmol, 3.85 g, 1 equiv. | [I-].[Na+]
reactant | 1-chloromethyl-2-trifluoromethyl-benzene | ClCC1=C(C=CC=C1)C(F)(F)F | C8H6ClF3
reactant | triethyl phosphite | 25.6 mmol, 4.26 g, 1 equiv. | P(OCC)(OCC)OCC | C6H15O3P
reactant | triethyl phosphite | 12.9 mmol, 2.13 g, 0.5 equiv. | P(OCC)(OCC)OCC | C6H15O3P
solvent | acetonitrile | C(C)#N | C2H3N
product | (2-Trifluoromethyl-benzyl)-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)CC1=C(C=CC=C1)C(F)(F)F | C12H16F3O3P
